Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Vaginal Bleeding 

 
Major Surgical or Invasive Procedure:
-bilateral percutaneous nephrostomy tubes
-exam under anesthesia, cervical mass biopsy, cystoscopy, 
proctoscopy

 
History of Present Illness:
Ms. ___ is a ___ yo female with poor medical compliance who 
presented to ___ with two weeks of nausea, vomiting, 
malaise and abdominal pain and was found to have a large pelvic 
mass and ___.  Pt has been having intermittent vaginal bleeding 
with clots daily for nearly the last year.  In addition, she has 
been having nausea, vomting, malaise and abdominal pain for the 
last two weeks which caused her to seek medical attention.  She 
felt that she was passing urine over the last few weeks, but was 
not sure.  She also endorses a 20 pound weight loss since the 
___.  She denies any chest pain, shortness of breath, fever, 
night sweats or chills.

At ___ she had a CT scan that showed a 8 cm pelvic 
mass that appears to be arising from the cervix that is causing 
bilateral moderate to severe hydronephrosis and hydroureter. 

In the ED, initial VS were:  99.1 97 136/65 16 99%.  Labs were 
notable for hyponatremia to 127, K of 4.9, BUN/Cr of 97/18.5, 
WBC of 20.2.  Pt was quickly taken to the MICU and then to 
interventional radiology for bilateral nephrostomy tubes, which 
were placed without complication.

In the ICU, 
 
Past Medical History:
OBHx: G7P2
- SVD x 2, 1 pre-term but otherwise no complications
- SAB x 7, all spontaneously resolved with no D&C required

GynHx: 
- post-menopausal x ___ yrs
- denies h/o STIs, cannot remember ever having Pap smears

MedHx: fibroids
SurgHx: oral surgery
 
Social History:
___
Family History:
unknown
 
Physical Exam:
Physical Exam on admission:
Vitals: T: 97.2 P: 104 R:16  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
Abdomen: soft, tenderness to palpation in the suprapubic region, 
non-distended, bowel sounds present, no organomegaly  
GU: foley in place 
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
Neuro: CNII-XII intact, ___ strength upper/lower extremities

Physical Exam on discharge:
afebrile, vital signs stable
Gen: NAD, AxO
CV: RRR
Resp: CTAB
Back: bilateral percutaneous nephrostomy tubes in place with 
clear yellow urine in both bags, no surrounding erythema
Abd: normoactive bowel sounds, soft, nondistended, minimally 
tender to deep palpation lower abdomen, no rebound or guarding
GU: peripad moderately stained with blood, no active vaginal 
bleeding
Ext: no ___ edema, calves nontender
 
Pertinent Results:
CBC: 
___ 06:45AM BLOOD WBC-17.5* RBC-3.46* Hgb-9.7* Hct-31.1* 
MCV-90 MCH-28.1 MCHC-31.3 RDW-15.0 Plt ___
___ 12:15AM BLOOD WBC-20.6* RBC-3.49* Hgb-9.8* Hct-30.6* 
MCV-88 MCH-28.1 MCHC-32.1 RDW-14.6 Plt ___
___ 07:40PM BLOOD WBC-21.3*# RBC-3.67*# Hgb-10.4*# 
Hct-32.5*# MCV-88 MCH-28.3 MCHC-32.0 RDW-15.0 Plt ___
___ 08:50AM BLOOD WBC-13.2* RBC-2.63* Hgb-7.2* Hct-23.3* 
MCV-89 MCH-27.6 MCHC-31.1 RDW-14.7 Plt ___
___ 02:30AM BLOOD WBC-16.3* RBC-2.68* Hgb-7.2* Hct-23.0* 
MCV-86 MCH-27.0 MCHC-31.3 RDW-14.7 Plt ___
___ 11:24AM BLOOD WBC-20.0* RBC-3.09* Hgb-8.6* Hct-28.4* 
MCV-92 MCH-27.7 MCHC-30.1* RDW-14.7 Plt ___
___ 06:08AM BLOOD WBC-18.7* RBC-3.00* Hgb-8.3* Hct-26.6* 
MCV-89 MCH-27.7 MCHC-31.2 RDW-14.8 Plt ___
___ 12:45AM BLOOD WBC-20.2* RBC-2.92* Hgb-7.9* Hct-25.8* 
MCV-89 MCH-27.0 MCHC-30.5* RDW-14.4 Plt ___
___ 08:50AM BLOOD Neuts-85.3* Lymphs-7.9* Monos-4.4 Eos-2.0 
Baso-0.4
___ 12:45AM BLOOD Neuts-90.0* Lymphs-4.7* Monos-3.0 Eos-1.9 
Baso-0.4

Coags:
___ 06:08AM BLOOD ___ PTT-27.5 ___
___ 12:45AM BLOOD ___ PTT-28.5 ___

Chemistry:
___ 06:45AM BLOOD Glucose-91 UreaN-20 Creat-2.1*# Na-141 
K-3.6 Cl-105 HCO3-25 AnGap-15
___ 06:37AM BLOOD Na-137 K-3.9 Cl-102
___ 12:15AM BLOOD Glucose-140* UreaN-46* Creat-5.0*# Na-139 
K-4.0 Cl-104 HCO3-23 AnGap-16
___ 07:40PM BLOOD Na-139 K-3.8 Cl-104
___ 08:50AM BLOOD Glucose-89 UreaN-62* Creat-8.7*# Na-138 
K-4.4 Cl-102 HCO3-22 AnGap-18
___ 02:30AM BLOOD Glucose-120* UreaN-72* Creat-10.6*# 
Na-136 K-4.5 Cl-103 HCO3-19* AnGap-19
___ 08:25PM BLOOD Glucose-137* UreaN-76* Creat-12.4*# 
Na-131* K-4.5 Cl-96 HCO3-17* AnGap-23*
___ 01:52PM BLOOD Glucose-86 UreaN-84* Creat-14.9*# Na-134 
K-5.0 Cl-100 HCO3-12* AnGap-27*
___ 06:08AM BLOOD Glucose-86 UreaN-94* Creat-18.1* Na-129* 
K-5.1 Cl-96 HCO3-14* AnGap-24*
___ 12:45AM BLOOD Glucose-88 UreaN-97* Creat-18.5* Na-127* 
K-4.9 Cl-93* HCO3-15* AnGap-24*
___ 06:45AM BLOOD Calcium-8.7 Phos-3.5 Mg-1.4*
___ 12:15AM BLOOD Calcium-8.4 Phos-4.8* Mg-1.8
___ 08:50AM BLOOD Calcium-8.4 Phos-5.6* Mg-2.0
___ 02:30AM BLOOD Calcium-8.3* Phos-5.8* Mg-2.1
___ 08:25PM BLOOD Calcium-8.4 Phos-5.6* Mg-2.2
___ 06:08AM BLOOD Albumin-2.8* Calcium-8.7 Phos-6.9* 
Mg-2.9*
___ 12:45AM BLOOD Calcium-8.7 Phos-6.8* Mg-2.6
___ 01:26AM BLOOD ___ pH-7.31*
___ 01:54PM BLOOD Na-143
___ 01:26AM BLOOD Lactate-1.1

___ Blood culture x 2, no growth at time of discharge 
summary

Urine:
___ 06:08AM URINE Color-Straw Appear-Clear Sp ___
___ 06:08AM URINE Blood-LG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-SM 
___ 06:08AM URINE RBC->182* WBC-14* Bacteri-FEW Yeast-NONE 
Epi-0
___ 06:08AM URINE CastHy-3*
___ 06:08AM URINE Mucous-RARE
___ 09:28AM URINE Hours-RANDOM Creat-52 Na-43 K-8 Cl-39
___ 06:08AM URINE Hours-RANDOM UreaN-206 Creat-62 Na-48 
K-10 Cl-33
___ 09:28AM URINE Osmolal-208
___ 06:08AM URINE Osmolal-213
___ Urine culture negative

___ ___ percutaneous nephrostomy tube report:
ANESTHESIA: Moderate sedation was provided by administering 
divided doses of fentanyl (100 mcg) and Versed (2 mg) throughout 
the total intraservice time of 35 minutes, during which the 
patient's hemodynamic parameters were 
continuously monitored.   
PROCEDURE: Bilateral percutaneous nephrostomy tube placement. 
FINDINGS: After the risks and benefits of the procedure were 
explained to the patient, written informed consent was obtained. 
The patient was placed prone on the table and her bilateral 
flanks were prepped and draped in standard sterile fashion. A 
pre-procedure timeout was performed. 
LEFT: Under ultrasound and fluoroscopic guidance, a left lower 
pole posterior calix was cannulated with a 21-gauge Cook needle 
through which a 0.018 wire was advanced into the renal pelvis. 
The needle was exchanged for AccuStick sheath. The wire was 
removed. Clear urine drained from the catheter. The wire, inner 
dilator and metallic shaft of the AccuStick sheath were removed, 
and a Amplatz wire was advanced into the renal pelvis. An 8 
___ dilator was used to open the tract over the Amplatz wire. 
This was followed by successful placement of the 8 ___ 
nephrostomy tube with pigtail locked within the renal pelvis of 
the left kidney. Contrast was injected confirming this location. 
The catheter was secured to the skin with 0 silk suture and 
StatLock. The catheter was placed to external bag drainage. 
RIGHT: Under ultrasound and fluoroscopic guidance, a right lower 
pole posterior calix was cannulated with a 21-gauge Cook needle 
through which a 0.018 wire was advanced into the renal pelvis. 
The needle was exchanged for AccuStick sheath. The wire was 
removed. Clear urine drained from the catheter. The wire, inner 
dilator and metallic shaft of the AccuStick sheath were removed, 
and a Amplatz wire was advanced into the renal pelvis. An 8 
___ dilator was used to open the tract over the Amplatz wire. 
This was followed by successful placement of the 8 ___ 
nephrostomy tube with pigtail locked within the renal pelvis of 
the right kidney. Contrast was injected confirming this 
location. The catheter was secured to the skin with 0 silk 
suture and StatLock. The catheter was placed to external bag 
drainage.
FINDINGS: Moderate bilateral hydronephrosis/hydroureter. 
Obstruction of the bilateral distal third of the ureters 
(complete obstruction on the right, minimal contrast passage 
into bladder on the left). 
There were no immediate complications. 
IMPRESSION: Successful bilateral percutaneous nephrostomies with 
8 ___ 
nephrostomy tubes. 

___ Pelvic MRI without contrast: 
COMPARISON: Outside hospital CT abdomen ___. 
FINDINGS: 
The uterus and cervix are both enlarged and both are markedly 
abnormal in appearance. The cervix has been replaced by 
heterogeneously T2 hyperintense tissue which invades into the 
posterior vaginal fornix (4:24). This measures approximately 9.3 
x 8.6 cm in the axial plane and up to 18 cm in craniocaudal 
dimension. In addition, there is extension into the parametrial 
tissues diffusely (3:21). Several discrete nodules appear 
relatively more T2 hyperintense including several nodules which 
have passed through the mesorectal fascia and are within the 
mesorectal fat (3:21). In addition, there is a small amount of 
tumor which appears to have invaded through the sigmoid wall 
(3:15). An additional nodule displaces the bladder anteriorly, 
although no frank invasion to the bladder wall can be 
appreciated (4:20). The uterus itself is also markedly abnormal 
and based on the T2 and diffusion signal characteristics, there 
is likely frank invasion of the tumor throughout the uterus. 
There is also a 5.9 x 4.7 cm fundal fibroid (3:6). The tumor 
within the uterine body appears to be confined to the uterus. 
  
There is 3.1 x 2.6 cm mass along the left pelvic side wall 
(3:14), identical in signal intensity to the cervical tumor, 
consistent with a lymph node deposit as the small left ovary 
appears adjacent. The left ovary could not well defined on this 
study though is likely between a dilated right tube and fibroid. 
There is a tubular T2 hyperintense structure in the right 
adnexal region measuring approximately 7.1 x 3.5 cm. This 
contains T2 hypointense debris in a dependent distribution. 
Given this appearance, it is most likely reflecting a dilated 
fallopian tube. The urinary bladder and rectum are unremarkable 
in appearance, although as stated before, there are tumor 
deposits extending into the mesorectal fat. 
  
Additional limited in- and out-of-phase T1-weighted images were 
obtained of the upper abdomen to assess the left adrenal mass. 
This mass measures approximately 3.5 x 3 cm and demonstrates 
diffuse loss of signal on out-of-phase compared to in-phase 
T1-weighted images, consistent with an adenoma. The visualized 
osseous structures are unremarkable.   
  
IMPRESSION: 
1. Large cervical mass, replacing both the cervix and uterus 
extending into the parametrium, mesorectal fat and likely the 
sigmoid colon focally.  Overall, this mass measures greater than 
18 cm in craniocaudal extent. MRI stage T4 given invasion of the 
sigmoid colon. 
2. Enlarged abnormal lymph node in the left hemipelvis. 
3. Dilated cystic structure in the right adnexa likely 
hydrosalpinx with debris. 
4. Left adrenal adenoma.

___ PET-CT
HEAD/NECK: There is a 7 mm hypoattenuating non FDG avid left 
thyroid lobe nodule. There are no suspicious FDG avid lesions.  
CHEST: There is a non FDG avid 1 cm nodule in the right major 
fissure of the lungs. There are no suspicious FDG avid lesions. 
There is a small pericardial effusion.  
ABDOMEN/PELVIS: Stable left adrenal gland adenoma (non FDG avid 
- SUV 2.2). Redemonstrated is the large about 9.5 x 8.5 cm 
cervical mass with a SUVmax of about 15, with invasion of the 
sigmoid colon and mesorectum (as seen on the previous MRI), with 
a large left 3.1 x 2.5 cm FDG avid external iliac lymph node 
with a SUV max of 14.7 (imag 147). There is a non FDG avid right 
hydrosalpinx.  
MUSCULOSKELETAL: There are no suspicious FDG avid lesions.  
Physiologic uptake is seen in the brain, myocardium, salivary 
glands, GI and GU tracts, liver and spleen. 
IMPRESSION: 1. Large FDG avid cervical mass and pelvic 
lymphadenopathy. 2. 1 cm pulmonary nodule in the right major 
fissure, likely represents benign lymph node. However, attention 
on follow-up studies is recommended. 3. No suspicious FDG avid 
lesions to suggest distant metastatic disease. 

___ Cervical mass biopsy and left vulvar biopsy pathology 
report
I.  Cervix, biopsy (A):
- Squamous cell carcinoma, invasive, moderately differentiated.
- Depth of invasion cannot be assessed.
II.  Vulva, biopsy (B):
High grade squamous intraepithelial lesion (Vulvar 
Intraepithelial Neoplasia 3).
 
Brief Hospital Course:
Ms. ___ is a ___ G7P2 woman with poor medical compliance who 
presented to ___ with two weeks of nausea, vomiting, 
malaise and abdominal pain and was found to have a large pelvic 
mass on CT and ___. She was transferred to ___ where she was 
admitted to the ICU after bilateral nephrostomy tube placement 
by interventional radiology and then transferred to the 
gynecologic oncology service for work-up of her pelvic mass when 
she was medically stabilized. Her hospital course, by problem, 
was as follows:
.
#Acute Kidney Injury:  Based on imaging showing bilateral 
hydronephrosis and hydroureters, the etiology of her ___ was 
largely post-renal from obstruction.  The most important 
intervention was placement of bilateral nephrostomy tubes.  She 
quickly had nearly 2 liters of clear urine output after 
placement of nephrostomy tubes. She did not have any urgent 
indication for dialysis and therefore her electrolytes were 
monitored closely q6h for 48 hours with appropriate decrease in 
her potassium and phos. Her creatinine decreased from 18.5 on 
admission to 2.1 on discharge. She received teaching for care of 
her percutaneous nephrostomy tubes prior to discharge, and will 
follow-up with nephrology and urology at ___.
.
#Hyponatremia: Likely hypovolemic in etiology from decreased 
oral intake and emesis prior to admission.  She was given 1L NS 
boluses x 2 and sodium was monitored q6h for development of 
post-diuresis hypernatremia. She was maintained on D5W with 
bicarb to prevent a rapid increase in serum sodium greater than 
10 in 24 hours, according to nephrology recommendations. Her Na 
on admission was 127, and normalized on the afternoon of 
hospital day 2 at which point she was maintained of D5W until 
she was taking PO, at which point she was saline locked.
.
# Cervical mass: CT scan at ___ showed a large mass arising 
from cervix, bilateral moderate hydronephrosis, and a possible 
1cm R lung density. After she was medically stabilized in the 
ICU, she was transferred to the gynecologic oncology service on 
hospital day 1. On hospital day 2, she was taken to the OR for 
an exam under anesthesia, cervical mass biopsy, left posterior 
vulvar biopsy, cystoscopy, and proctoscopy. Intraoperative 
findings were notable for a large cervical mass extending down 
the vagina with parametrial involvement from the sidewall. There 
was no evidence of invasion of the bladder or rectal mucosa. 
Please refer to Dr. ___ report for details of the 
operation. Final pathology is pending at the time of this 
discharge summary. A pelvic MRI confirmed the 18cm cervical mass 
extending in to the parametrium, mesorectal fat, and likely the 
sigmoid colon with enlarged lymph nodes in the left pelvis. A 
PET-CT was performed to evaluate for distant metastasis showed 
"no suspicious FDG avid lesions to suggest distant metastatic 
disease". Her post-operative course was uncomplicated. Her diet 
was advanced on post-operative day 1 with no nausea, pain was 
controlled with percocet, she had good urine output from both 
nephrostomy tubes, and she was ambulating independently without 
difficulty.
.
#Anemia: Unclear baseline Hct for pt, Hct of 25.8 in ED. She was 
hemodynamically stable, without evidence of active hemorrhage. 
Prior to going to the OR on hospital day 2, her HCT decreased to 
23, so she was transfused 2 units pRBCs for stabilization prior 
to cervical biopsy. Her post-transfusion HCT was appropriate at 
32.5. Post-operatively, her cervical bleeding was minimal, and 
her HCT on discharge was stable at 31.
.
#Leukocytosis:  She presented with a leukocytosis of 20.2.  
Differential included complicated urinary tract infection vs. 
malignancy/stress reaction. She received 2 doses of ceftriaxone, 
which was discontinued after urine culture was negative. Blood 
culture were no growth at the time of this discharge summary.
.
#Anion gap metabolic acidosis:  Most likely ___ ___ and uremia, 
lactate normal at 1.1.  VBG on admission revealed a pH of 7.31.
.
#Code status: Patient was okay with intubation but was DNR
.
#Soc: She was seen by social work for her new diagnosis, coping, 
and resources.

By hospital day 4/post-operative day 2, her creatinine was 
significantly improved, and her electrolytes were normalized. 
She was tolerating a regular diet, ambulating independently, and 
pain was controlled with percocet. She was then discharged home 
in stable condition with plans for outpatient follow-up with 
___ urology, ___ Kidney and Hypertension, ___ 
radiation oncology, and Dr. ___.
 
Medications on Admission:
none
 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.
Disp:*60 Capsule(s)* Refills:*2*
2. oxycodone-acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q4H (every 4 hours) as needed for pain.
Disp:*35 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-cervical mass concerning for cancer - final pathology pending
-bilateral ureteral obstruction causing acute kidney injury
-hyponatremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to the ICU and then transferred to the 
gynecologic oncology service for a cervical mass that was 
blocking both ureters. You had percutaneous nephrostomy tubes 
placed to drain your kidneys, and your kidney function test has 
improved. We biopsied the cervical mass, and the final pathology 
is pending at this time. A pelvic MRI confirmed the large mass 
in your pelvis, and PET-CT was performed but the result is not 
finalized yet. Please follow these instructions:

General instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
* Nothing in the vagina (no tampons, no douching, no sex), no 
heavy lifting of objects >10lbs for 6 weeks.  
* You may eat a regular diet  
* Percutaneous nephrostomy tube care as instructed
 
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

 
Followup Instructions:
___